US05550262
104 mL of triethyl orthoformate was added over a period of 30 min to a solution of CBZ-Leu-H (12 g) and p-toluenesulfonic acid (0.9 g) in 100 mL of anhydrous ethanol (EtOH). The mixture was stirred for 30 min, and then was evaporated and diluted with 500 mL of ether. The ether layer was washed consecutively with saturated solutions of NaHCO3 and sodium chloride. The yellowish brown semisolid was recrystallized from cold hexane to yield off-white needles of CBZ-Leucinal diethylacetal.

reactant | triethyl orthoformate | 104 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | CBZ-Leu-H | 12 g | N([C@@H](CC(C)C)C=O)C(=O)OCC1=CC=CC=C1 | C14H19NO3
reactant | p-toluenesulfonic acid | 0.9 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | CBZ-Leucinal diethylacetal | C(C)OC([C@@H](NC(=O)OCC1=CC=CC=C1)CC(C)C)OCC | C18H29NO4
